US07034039B2
A solution of 3-[4-butoxy-6,7-dichloro-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-oxo-2(1H)isoquinolinyl]propionic acid (1.03 g, 2.4 mmol), pyrrolidine (0.20 ml, 2.4 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.46 g, 2.4 mmol) and 1-hydroxybenzotriazole (0.37 g, 2.4 mmol) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 2 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from tetrahydrofuran-diisopropyl ether to give 2-[[4-butoxy-6,7-dichloro-1-oxo-2-[3-oxo-3-(1-pyrrolidinyl)propyl]-1,2-dihydro-3-isoquinolinyl]-methyl]-1H-isoindole-1,3(2H)-dione (0.72 g, 66.1%) as crystals.

reactant | 3-[4-butoxy-6,7-dichloro-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-oxo-2(1H)isoquinolinyl]propionic acid | 2.4 mmol, 1.03 g | C(CCC)OC1=C(N(C(C2=CC(=C(C=C12)Cl)Cl)=O)CCC(=O)O)CN1C(C2=CC=CC=C2C1=O)=O | C25H22Cl2N2O6
reactant | pyrrolidine | 2.4 mmol, 0.20 ml | N1CCCC1 | C4H9N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.4 mmol, 0.46 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 2.4 mmol, 0.37 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[[4-butoxy-6,7-dichloro-1-oxo-2-[3-oxo-3-(1-pyrrolidinyl)propyl]-1,2-dihydro-3-isoquinolinyl]-methyl]-1H-isoindole-1,3(2H)-dione | 0.72 g, 66.1% | C(CCC)OC1=C(N(C(C2=CC(=C(C=C12)Cl)Cl)=O)CCC(N1CCCC1)=O)CN1C(C2=CC=CC=C2C1=O)=O | C29H29Cl2N3O5
